US04868310
2-Methyl-2-butene (7.0 g) was added to a stirred mixture of methacrylonitrile (6.7 g) in acetic acid (50 ml) and concentrated sulfuric acid (10 g) at 10° to 20° C. The mixture was allowed to stand overnight at room temperature, and then poured into 200 g of water and extracted with methylene chloride (2×100 ml). The methylene chloride solution was dried over sodium sulfate, the solid filtered off and the methylene chloride evaporated to afford an oily product. Distillation of the product at 10 mm yielded N-(2-methyl-2-butyl)methacrylamide (10.1 g, 65%); bp 84° C.

reactant | 2-Methyl-2-butene | 7.0 g | CC(C)=CC | C5H10
reactant | methacrylonitrile | 6.7 g | C(C(=C)C)#N | C4H5N
reactant | sulfuric acid | 10 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 200 g | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-(2-methyl-2-butyl)methacrylamide | 10.1 g, 65% | CC(C)(CC)NC(C(=C)C)=O | C9H17NO
